US06689806B1
Tetrakis(triphenylphosphine)palladium(0) (0.24 g, 0.21 mmol) was added to a solution of 4-methoxy-3-bromobenzaldehyde (1.5 g, 6.98 mmol) in toluene (15 mL) and ethanol (15 mL), followed by a 2 M aqueous solution of sodium carbonate (14 mL, 28 mmol). To this mixture was added thiophene-2-boronic acid (0.98 g, 7.68 mmol), and the mixture was heated to reflux. After 3 hours, the reaction was partitioned between water (100 mL) and ethyl acetate (250 mL). The organic layer was washed with saturated aqueous sodium bicarbonate (75 mL) and brine (75 mL), dried with magnesium sulfate and concentrated. Chromatography (silica, 20% ethyl acetate/hexanes) afforded 1.3 g (87%) of 4-methoxy-3-thiophen-2-yl-benzaldehyde as a yellow oil.

reactant | 4-methoxy-3-bromobenzaldehyde | 6.98 mmol, 1.5 g | COC1=C(C=C(C=O)C=C1)Br | C8H7BrO2
reactant | sodium carbonate | 28 mmol, 14 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophene-2-boronic acid | 7.68 mmol, 0.98 g | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.21 mmol, 0.24 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methoxy-3-thiophen-2-yl-benzaldehyde | 1.3 g, 87% | COC1=C(C=C(C=O)C=C1)C=1SC=CC1 | C12H10O2S
